US04921851
In 50 ml of water is suspended 2.30 g of 7β-amino-3-hydroxymethyl-3-cephem-4-carboxylic acid and the suspension is adjusted to pH 8.5 with 1N-aqueous sodium hydroxide solution, whereupon a clear solution is obtained. To this solution are added 4.56 g of S-p-methoxybenzyloxycarbonyl-4,6-dimethyl-2-mercaptopyridine and 50 ml of dioxane and the mixture is stirred at room temperature for 7 hours. The reaction mixture is diluted with water and ethyl acetate and the water layer is separated and concentrated under reduced pressure. The residue is subjected to XAD-II (500 ml) column chromatography and after the column is washed with water, elution is carried out with 10% (v/v) ethanol. The eluate is concentrated under reduced pressure and freeze-dried to give 1.63 g of sodium 7β-(p-methoxybenzyloxycarbonylamino)-3-hydroxymethyl-3-cephem-4-carboxylate as colorless powders.

reactant | 7β-amino-3-hydroxymethyl-3-cephem-4-carboxylic acid | 2.30 g | N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O | C8H10N2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | S-p-methoxybenzyloxycarbonyl-4,6-dimethyl-2-mercaptopyridine | 4.56 g | COC1=CC=C(COC(=O)SC2=NC(=CC(=C2)C)C)C=C1 | C16H17NO3S
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | sodium 7β-(p-methoxybenzyloxycarbonylamino)-3-hydroxymethyl-3-cephem-4-carboxylate | 1.63 g | COC1=CC=C(COC(=O)N[C@H]2[C@@H]3N(C(=C(CS3)CO)C(=O)[O-])C2=O)C=C1.[Na+] | InChI=1S/C17H18N2O7S.Na/c1-25-11-4-2-9(3-5-11)7-26-17(24)18-12-14(21)19-13(16(22)23)10(6-20)8-27-15(12)19;/h2-5,12,15,20H,6-8H2,1H3,(H,18,24)(H,22,23);/q;+1/p-1/t12-,15-;/m1./s1
